US07619086B2
Step 6: 4-Cyano-1-(4-fluorobenzyl)-4-phenylpiperidin-2-one
To a solution of 4-cyano-1-(4-fluorobenzyl)-4-phenyl-1,2,3,4-tetrahydropyridin-2-one (3.98 g, 13.0 mmol) in degassed methanol was added 10% Pd/C (0.8 g). The reaction shaken under an atmosphere of 33 psi of hydrogen for 18 hours. More 10% Pd/C (0.4 g) was added and the mixture was shaken under 45 psi of hydrogen for 48 hours. The mixture was filtered through a bed of celite and the filtrate was concentrated to give the title compound as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 7.55 (d, J=7.7 Hz, 2H), 7.46 (t, J=7.9 Hz, 2H), 7.38 (t, J=7.3 Hz, 1H), 7.28 (t, J=3 Hz, 2H), 7.16 (t, J=2.4 Hz, 2H), 4.58 (s, 2H), 3.44 (m, 1H), 3.25 (m, 1H), 3.07 (q, J=16 Hz, 2H), 2.41 (s, 2H) ppm. ES MS M+1=309.

reactant | 4-cyano-1-(4-fluorobenzyl)-4-phenyl-1,2,3,4-tetrahydropyridin-2-one | 13.0 mmol, 3.98 g | C(#N)C1(CC(N(C=C1)CC1=CC=C(C=C1)F)=O)C1=CC=CC=C1 | C19H15FN2O
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | Pd/C | 0.8 g | [Pd] | Pd
catalyst | Pd/C | 0.4 g | [Pd] | Pd
product | 4-Cyano-1-(4-fluorobenzyl)-4-phenylpiperidin-2-one | C(#N)C1(CC(N(CC1)CC1=CC=C(C=C1)F)=O)C1=CC=CC=C1 | C19H17FN2O
